US07253158B2
2) 5-Hydroxymethyl-pyridine-2-carboxylic acid cyclopropylamide
5-Hydroxymethyl-pyridine-2-carboxylic acid (0.23 g, 1.5 mmol) was dissolved in DMF (3 ml) and activated with TPTU (0.45 g, 1.5 mmol), Hünig's base (0.51 ml, 3.0 mmol) and reacted with cyclopropyl amine (0.12 ml, 1.65 mmol) for 1 h at r.t during which a precipitate was formed. Solvent was removed and the residue dissolved in acetonitrile/water and purified by prep.RP(C18)HPLC: 60 mg;

reactant | 5-Hydroxymethyl-pyridine-2-carboxylic acid | 1.5 mmol, 0.23 g | OCC=1C=CC(=NC1)C(=O)O | C7H7NO3
reactant | TPTU | 1.5 mmol, 0.45 g | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C=CC=CC1=O
reactant | Hünig's base | 3.0 mmol, 0.51 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | cyclopropyl amine | 1.65 mmol, 0.12 ml | C1(CC1)N | C3H7N
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 5-Hydroxymethyl-pyridine-2-carboxylic acid cyclopropylamide | C1(CC1)NC(=O)C1=NC=C(C=C1)CO | C10H12N2O2
